US07981903B2
A solution of 1,1-dimethylethyl [5-[(N,N-dimethylglycyl)amino]-2-(methyloxy)phenyl]carbamate (0.44 g, 1.36 mmol) and trifluoroacetic acid (1.55 g, 13.6 mmol, Aldrich) in dichloromethane (50 mL) was stirred overnight at room temperature. The crude reaction was diluted with dichloromethane (100 mL), washed with saturated NaHCO3 (100 mL), evaporated under reduced pressure, and dried under high vacuum to provide N1-[3-amino-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide (0.29 g, 95%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.22 (s, 6H) 2.99 (s, 2 H) 3.80 (s, 3 H) 5.29 (s, 2 H) 6.68-6.74 (m, 1 H) 7.03 (d, J=8.61 Hz, 1H) 7.22 (d, J=2.38 Hz, 1 H) 9.49 (s, 1 H). ESIMS (M+H)+=224.

reactant | 1,1-dimethylethyl [5-[(N,N-dimethylglycyl)amino]-2-(methyloxy)phenyl]carbamate | 1.36 mmol, 0.44 g | CN(CC(=O)NC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)OC)C | C16H25N3O4
reactant | trifluoroacetic acid | 13.6 mmol, 1.55 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N1-[3-amino-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide | 0.29 g, 95% | NC=1C=C(C=CC1OC)NC(CN(C)C)=O | C11H17N3O2
